US08471005B2
7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carbonitrile (151 mg, 0.603 mmol) and 9.5 M of Sodium hydroxide in Water (0.20 mL, 1.9 mmol) were combined in Ethanol (6.0 mL) in a vial, which was then heated to reflux for 90 min. The mixture was removed from the heat and treated with 3.00 M of Hydrogen Chloride in Water (1.00 mL, 3.0 mmol), generating a precipitate, which was diluted with water (2 mL), stirred vigorously (thick suspension) then collected by filtration, washing with water (2×8 mL) and drying on the Buchner then in vacuo to afford 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carboxylic acid (145 mg, 89%). LCMS (HPLC): 0.76 min, m/z=270 (M+H); 1H-NMR (DMSO-d6): 13.55 (br s, 1H), 9.27 (s, 1H), 7.73 (d, 1H, J=7.5 Hz), 7.49 (m, 1H), 7.39 (d, 1H, J=4.6 Hz), 7.25 (s, 1H), 7.23 (d, 1H, J=4.6 Hz), 7.12 (m, 1H), 3.81 (s, 3H).

reactant | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carbonitrile | 0.603 mmol, 151 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)C#N | C14H10N4O
reactant | Sodium hydroxide | 9.5 M | [OH-].[Na+]
reactant | Hydrogen Chloride | 3.00 M | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | Water | 3.0 mmol, 1.00 mL | O | H2O
reactant | Water | 1.9 mmol, 0.20 mL | O | H2O
solvent | Ethanol | 6.0 mL | C(C)O | C2H6O
product | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carboxylic acid | 145 mg, 89% | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)C(=O)O | C14H11N3O3
